US04476132
10 g of 1-ethyl-6-butyryl-7-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid ethyl ester are dissolved in 250 ml of ethanol, 30.4 ml of N sodium hydroxide solution are added and the mixture is stirred for 1 hour at room temperature. The ethanol is removed under reduced pressure, and the aqueous phase is extracted with chloroform and acidified with hydrochloric acid. The precipitated crystallisate is filtered with suction. 1-Ethyl-6-butyryl-7-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid having a melting point of 208°-209° is obtained.

reactant | 1-ethyl-6-butyryl-7-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid ethyl ester | 10 g | C(C)OC(=O)C1=CN(C2=CC(=C(C=C2C1=O)C(CCC)=O)C)CC | C19H23NO4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 1-Ethyl-6-butyryl-7-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | C(C)N1C=C(C(C2=CC(=C(C=C12)C)C(CCC)=O)=O)C(=O)O | C17H19NO4
